*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_0 1 2 3 4 REF
C_C1 1 REF 0.9894922210497pf
C_C2 1 2 13.231564877186pf
C_C3 1 3 0.0198585826315pf
C_C4 1 4 0.1850867227154pf
C_C5 2 REF 1.1584404753021pf
C_C6 2 3 0.0948574631767pf
C_C7 3 REF 0.347229984314pf
C_C8 3 4 7.4140243707775pf
C_C9 4 REF 0.3472662126119pf
L_L1 3 5 1.3151124065464nh
R_RL1 5 4 -1.183647376e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_1 1 2 3 4 REF
C_C1 1 REF 0.7944808747132pf
C_C2 1 2 13.506325357472pf
C_C3 1 3 0.0192344401672pf
C_C4 1 4 0.1864525288863pf
C_C5 2 REF 0.9646524419762pf
C_C6 2 3 0.0951127507115pf
C_C7 3 REF 0.3476253326783pf
C_C8 3 4 5.4907094075866pf
C_C9 4 REF 0.3462655061887pf
R_R1 1 2 759.25860609403
L_L1 3 5 1.3167033348914nh
R_RL1 5 4 4.0108418773e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_2 1 2 3 4 REF
C_C1 1 REF 0.6546384417214pf
C_C2 1 2 13.791779624501pf
C_C3 1 3 0.0185322187151pf
C_C4 1 4 0.1885914250261pf
C_C5 2 REF 0.8271607101727pf
C_C6 2 3 0.0956606404111pf
C_C7 3 REF 0.3478038772914pf
C_C8 3 4 4.14920083397pf
C_C9 4 REF 0.3453787199413pf
R_R1 1 2 761.98006603578
L_L1 3 5 1.3180268136572nh
R_RL1 5 4 2.4811196454e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_3 1 2 3 4 REF
C_C1 1 REF 0.5317173456093pf
C_C2 1 2 14.176218985439pf
C_C3 1 3 0.0175492843574pf
C_C4 1 4 0.192189779931pf
C_C5 2 REF 0.7085142415552pf
C_C6 2 3 0.096630222213pf
C_C7 3 REF 0.3478460216556pf
C_C8 3 4 2.9964370400263pf
C_C9 4 REF 0.3444266866799pf
R_R1 1 2 792.64812443356
L_L1 3 5 1.3193642297374nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_4 1 2 3 4 REF
C_C1 1 REF 0.4315488513568pf
C_C2 1 2 14.677371554053pf
C_C3 1 3 0.0162400786427pf
C_C4 1 4 0.1974953985916pf
C_C5 2 REF 0.6148754111419pf
C_C6 2 3 0.0980417816288pf
C_C7 3 REF 0.3477773405202pf
C_C8 3 4 2.0741597058539pf
C_C9 4 REF 0.3435052554549pf
R_R1 1 2 865.28311818467
L_L1 3 5 1.3206980996981nh
R_RL1 5 4 -1.157809993e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_5 1 2 3 4 REF
C_C1 1 REF 0.3643989502336pf
C_C2 1 2 15.232297688371pf
C_C3 1 3 0.0147624078214pf
C_C4 1 4 0.2037687482207pf
C_C5 2 REF 0.5555738719271pf
C_C6 2 3 0.0996597680749pf
C_C7 3 REF 0.3476711727061pf
C_C8 3 4 1.4651814151906pf
C_C9 4 REF 0.3428097689451pf
R_R1 1 2 986.69737887053
L_L1 3 5 1.3217724052841nh
R_RL1 5 4 -2.829779294e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_6 1 2 3 4 REF
C_C1 1 REF 0.3179879223889pf
C_C2 1 2 15.844929337664pf
C_C3 1 3 0.0130966145862pf
C_C4 1 4 0.2108981154239pf
C_C5 2 REF 0.5181503957214pf
C_C6 2 3 0.1014475904342pf
C_C7 3 REF 0.3475844216298pf
C_C8 3 4 1.0489998624389pf
C_C9 4 REF 0.3423207450097pf
L_L1 3 5 1.3226520085662nh
R_RL1 5 4 -4.258674323e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_7 1 2 3 4 REF
C_C1 1 REF 0.280686279485pf
C_C2 1 2 16.642436393399pf
C_C3 1 3 0.0108722369575pf
C_C4 1 4 0.2202878946701pf
C_C5 2 REF 0.4927589949459pf
C_C6 2 3 0.1037589452078pf
C_C7 3 REF 0.3475404666527pf
C_C8 3 4 0.7177881076359pf
C_C9 4 REF 0.3419811640891pf
L_L1 3 5 1.3234782091054nh
R_RL1 5 4 -5.599990334e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_8 1 2 3 4 REF
C_C1 1 REF 0.2517613612279pf
C_C2 1 2 17.656430893447pf
C_C3 1 4 0.2322398428301pf
C_C4 2 REF 0.4791028696301pf
C_C5 2 3 0.1066921303727pf
C_C6 3 REF 0.3475656302765pf
C_C7 3 4 0.4635153128417pf
C_C8 4 REF 0.3418299987244pf
L_L1 3 5 1.3242539467835nh
R_RL1 5 4 -6.775092106e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_9 1 2 3 4 REF
C_C1 1 REF 0.2301380250674pf
C_C2 1 2 18.957306475259pf
C_C3 1 4 0.2474792652271pf
C_C4 2 REF 0.4771201910469pf
C_C5 2 3 0.1104950979941pf
C_C6 3 REF 0.3476643438318pf
C_C7 3 4 0.2767962853076pf
C_C8 4 REF 0.3418836998535pf
L_L1 3 5 1.3249379615301nh
R_RL1 5 4 -7.606743475e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_10 1 2 3 4 REF
C_C1 1 REF 0.2137554083683pf
C_C2 1 2 20.61032222591pf
C_C3 1 4 0.2666349721893pf
C_C4 2 REF 0.4856157642039pf
C_C5 2 3 0.1154439254686pf
C_C6 3 REF 0.3478017846899pf
C_C7 3 4 0.1421595981113pf
C_C8 4 REF 0.3421034805546pf
L_L1 1 5 87.568568651888nh
R_RL1 5 2 14.646329600986
L_L2 3 6 1.3255398865085nh
R_RL2 6 4 -8.004263282e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_11 1 2 3 4 REF
C_C1 1 REF 0.2004035242448pf
C_C2 1 2 22.757688360658pf
C_C3 1 4 0.2911562505748pf
C_C4 2 REF 0.5042361981639pf
C_C5 2 3 0.1221001231969pf
C_C6 3 REF 0.3479202369409pf
C_C7 3 4 0.0479768161553pf
C_C8 4 REF 0.3424347483041pf
L_L1 1 5 55.095753003811nh
R_RL1 5 2 8.4414220931847
L_L2 3 6 1.326008295564nh
R_RL2 6 4 -7.832281744e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_12 1 2 3 4 REF
C_C1 1 REF 0.1873041676248pf
C_C2 1 2 25.572294144762pf
C_C3 1 4 0.3227812117423pf
C_C4 2 REF 0.5322851536465pf
C_C5 2 3 0.1311536685869pf
C_C6 3 REF 0.3479545541275pf
C_C7 4 REF 0.3428093293575pf
L_L1 1 5 34.518912297911nh
R_RL1 5 2 4.5205877654951
L_L2 3 6 1.3262301646202nh
R_RL2 6 4 -7.047883901e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_13 1 2 3 4 REF
C_C1 1 REF 0.1708031351065pf
C_C2 1 2 29.424552799347pf
C_C3 1 4 0.3653468078603pf
C_C4 2 REF 0.5707254650893pf
C_C5 2 3 0.1439849651051pf
C_C6 3 REF 0.3478453341332pf
C_C7 4 REF 0.3431850994974pf
R_R1 1 2 -976.6792984564
L_L1 1 5 21.343000917166nh
R_RL1 5 2 2.2411830883173
L_L2 3 6 1.3259917051671nh
R_RL2 6 4 -5.646778186e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_14 1 2 3 4 REF
C_C1 1 REF 0.1458378116942pf
C_C2 1 2 34.884754936601pf
C_C3 1 4 0.4248166756549pf
C_C4 2 REF 0.6216732124255pf
C_C5 2 3 0.1626627741817pf
C_C6 3 REF 0.3475575893461pf
C_C7 4 REF 0.3435587885753pf
R_R1 1 2 -756.9346280987
L_L1 1 5 12.800450579368nh
R_RL1 5 2 0.9898697628287
L_L2 3 6 1.3255941110926nh
R_RL2 6 4 -3.709131261e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_15 1 2 3 4 REF
C_C1 1 REF 0.1028339673866pf
C_C2 1 2 43.245354775183pf
C_C3 1 4 0.5148711582488pf
C_C4 2 REF 0.6923397418629pf
C_C5 2 3 0.1917814160015pf
C_C6 3 REF 0.3470564093095pf
C_C7 4 REF 0.3439968440603pf
R_R1 1 2 -585.3816356086
L_L1 1 5 7.0787287145743nh
R_RL1 5 2 0.2705787532359
L_L2 3 6 1.3249163125461nh
R_RL2 6 4 -1.470086045e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_16 1 2 3 4 REF
C_C1 1 REF 0.0158567790855pf
C_C2 1 2 58.36740568575pf
C_C3 1 4 0.6766489267067pf
C_C4 2 REF 0.8078531324417pf
C_C5 2 3 0.2449474083884pf
C_C6 3 REF 0.3462408885673pf
C_C7 4 REF 0.3447481580939pf
R_R1 1 2 -426.5980313614
L_L1 1 5 4.2724423280956nh
R_RL1 5 2 0.6718593314472
L_L2 3 6 1.3236836296625nh
R_RL2 6 4 1.4625104086e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_17 1 2 3 4 REF
C_C1 1 2 91.182495216024pf
C_C2 1 4 1.0266988290723pf
C_C3 2 REF 1.0391736489072pf
C_C4 2 3 0.3606469408372pf
C_C5 3 REF 0.3448722395322pf
C_C6 4 REF 0.3465759542372pf
R_R1 1 2 -285.6683305442
L_L1 1 5 1.7493555123499nh
R_RL1 5 2 0.0792769677494
L_L2 1 6 75.494117259941nh
R_RL2 6 3 0.0272317725402
L_L3 1 7 74.73129162326nh
R_RL3 7 4 0.0276692946305
L_L4 2 8 75.564491903768nh
R_RL4 8 3 0.0070768425695
L_L5 2 9 74.804369631054nh
R_RL5 9 4 0.0068585225757
L_L6 3 10 1.3210584432367nh
R_RL6 10 4 3.7126701251e-5
Kn_K1 L_L1 L_L2 0.0730499894004
Kn_K2 L_L1 L_L3 0.0733036564302
Kn_K3 L_L1 L_L4 -0.079136907387
Kn_K4 L_L1 L_L5 -0.079656125152
Kn_K5 L_L2 L_L3 0.9912189377186
Kn_K6 L_L2 L_L4 0.9884194663321
Kn_K7 L_L2 L_L5 0.9795635536352
Kn_K8 L_L2 L_L6 -0.10433403173
Kn_K9 L_L3 L_L4 0.9796038978209
Kn_K10 L_L3 L_L5 0.9883015338952
Kn_K11 L_L3 L_L6 0.0280913816632
Kn_K12 L_L4 L_L5 0.9912272125779
Kn_K13 L_L4 L_L6 -0.104150149731
Kn_K14 L_L5 L_L6 0.0282136289401
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_18 1 2 3 4 REF
C_C1 1 2 192.93039247821pf
C_C2 1 4 2.1119008473552pf
C_C3 2 REF 1.7253549236926pf
C_C4 2 3 0.719060060552pf
C_C5 3 REF 0.34178492409pf
C_C6 4 REF 0.3531193910856pf
R_R1 1 2 -191.1661388917
L_L1 1 5 78.541434181465nh
R_RL1 5 REF 1.5964680643747
L_L2 1 6 0.5639427213148nh
R_RL2 6 2 0.0145675704192
L_L3 1 7 28.009544819923nh
R_RL3 7 3 0.0105551832258
L_L4 1 8 27.301375830092nh
R_RL4 8 4 0.0106689504311
L_L5 2 9 78.040342473394nh
R_RL5 9 REF 1.6005640017516
L_L6 2 10 28.092560620519nh
R_RL6 10 3 0.0013839007426
L_L7 2 11 27.388133843781nh
R_RL7 11 4 0.0012978270485
L_L8 3 12 1.3130471021996nh
R_RL8 12 4 5.3667138884e-5
Kn_K1 L_L1 L_L2 0.0800141397289
Kn_K2 L_L1 L_L5 0.9964035162956
Kn_K3 L_L2 L_L3 0.0605032312115
Kn_K4 L_L2 L_L4 0.0608060450738
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.081270565377
Kn_K7 L_L2 L_L7 -0.082785177254
Kn_K8 L_L3 L_L4 0.9763406453527
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9899490061232
Kn_K11 L_L3 L_L7 0.9661111292206
Kn_K12 L_L3 L_L8 -0.16664395842
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9662817310175
Kn_K15 L_L4 L_L7 0.9896895287812
Kn_K16 L_L4 L_L8 0.0505132666136
Kn_K17 L_L6 L_L7 0.9764119673645
Kn_K18 L_L6 L_L8 -0.166089473596
Kn_K19 L_L7 L_L8 0.0507452133437
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_19 1 2 3 4 REF
C_C1 1 2 1249.2037005539pf
C_C2 1 4 13.386730944635pf
C_C3 2 REF 8.7544899391508pf
C_C4 2 3 4.4333994484186pf
C_C5 3 REF 0.3163120232613pf
C_C6 4 REF 0.4272745292651pf
R_R1 1 2 12.777902813189
L_L1 1 5 7.3444530219382nh
R_RL1 5 REF 0.0016261057698
L_L2 1 6 0.0592834047964nh
R_RL2 6 2 -3.988131203e-3
L_L3 1 7 4.0144507952939nh
R_RL3 7 3 -1.258164553e-3
L_L4 1 8 3.3806073377668nh
R_RL4 8 4 -1.7383217e-3
L_L5 2 9 7.3065259001516nh
R_RL5 9 REF -9.505284372e-4
L_L6 2 10 4.0277162586657nh
R_RL6 10 3 -5.330792629e-4
L_L7 2 11 3.3985827273169nh
R_RL7 11 4 -3.31922502e-4
L_L8 3 12 11.293763957452nh
R_RL8 12 REF -4.492899135e-3
L_L9 3 13 1.2329017055005nh
R_RL9 13 4 2.2803275435e-5
L_L10 4 14 10.652924274704nh
R_RL10 14 REF -4.570750603e-3
Kn_K1 L_L1 L_L2 0.0736608968457
Kn_K2 L_L1 L_L5 0.9959569587558
Kn_K3 L_L1 L_L8 0.8028421346723
Kn_K4 L_L1 L_L10 0.8262420005288
Kn_K5 L_L2 L_L3 0.0471647517121
Kn_K6 L_L2 L_L4 0.046136048922
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.07423430425
Kn_K9 L_L2 L_L7 -0.086060217388
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8363581409922
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9926297794599
Kn_K15 L_L3 L_L7 0.8279141824827
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.419544220486
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8293824271732
Kn_K21 L_L4 L_L7 0.9912585749704
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1467159955077
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8021054078048
Kn_K26 L_L5 L_L10 0.8252154847485
Kn_K27 L_L6 L_L7 0.8369906112406
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.417795962606
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1474779429912
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2510707235648
Kn_K35 L_L8 L_L10 0.9442255050181
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_20 1 2 3 4 REF
C_C1 1 REF 13.15441093143pf
C_C2 1 3 6.791633465577pf
C_C3 2 4 20.464189856338pf
C_C4 3 REF 0.389596533291pf
C_C5 4 REF 0.2020437333515pf
R_R1 1 2 -52.51914651186
L_L1 1 5 3.9443322750995nh
R_RL1 5 REF -8.545985165e-3
L_L2 1 6 0.4564971732799nh
R_RL2 6 2 0.1113703005088
L_L3 1 7 2.6351813086907nh
R_RL3 7 3 0.0431788246291
L_L4 1 8 2.1236000388607nh
R_RL4 8 4 0.0635664145219
L_L5 2 9 4.388218121174nh
R_RL5 9 REF 0.097954334096
L_L6 2 10 2.501788797266nh
R_RL6 10 3 0.0156349153159
L_L7 2 11 1.8893571517969nh
R_RL7 11 4 0.0065287005148
L_L8 3 12 6.5888518035694nh
R_RL8 12 REF 0.0291686619012
L_L9 3 13 1.1674746525134nh
R_RL9 13 4 0.0019799775463
L_L10 4 14 6.0878385203956nh
R_RL10 14 REF 0.0491599421094
Kn_K1 L_L1 L_L5 0.9465592343467
Kn_K2 L_L1 L_L8 0.7746324208718
Kn_K3 L_L1 L_L10 0.8069557120392
Kn_K4 L_L2 L_L3 0.2689159172883
Kn_K5 L_L2 L_L4 0.3507754899455
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.151171130367
Kn_K8 L_L2 L_L7 -0.119658642688
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0690724320885
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.759068355167
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9114422782824
Kn_K15 L_L3 L_L7 0.6725646889979
Kn_K16 L_L3 L_L8 0.9477137149256
Kn_K17 L_L3 L_L9 -0.478636908172
Kn_K18 L_L3 L_L10 0.9872592148627
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6292035543263
Kn_K21 L_L4 L_L7 0.8877578918155
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.2082778861274
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0454454934148
Kn_K26 L_L5 L_L7 0.032947338155
Kn_K27 L_L5 L_L8 0.7880887792684
Kn_K28 L_L5 L_L9 -0.024612682057
Kn_K29 L_L5 L_L10 0.8306548459147
Kn_K30 L_L6 L_L7 0.7413757970832
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.520736586928
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1868597995623
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3007907490664
Kn_K38 L_L8 L_L10 0.9086137419574
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_21 1 2 3 4 REF
C_C1 1 2 278.50482194372pf
C_C2 1 4 3.0147576889436pf
C_C3 2 REF 2.2808703831092pf
C_C4 2 3 1.0242861516389pf
C_C5 3 REF 0.3380243174143pf
C_C6 4 REF 0.3568078891434pf
R_R1 1 2 -38.84688611558
L_L1 1 5 28.069939549607nh
R_RL1 5 REF -0.59231249103
L_L2 1 6 0.1273947991029nh
R_RL2 6 2 0.0106439537383
L_L3 1 7 11.293390608978nh
R_RL3 7 3 0.0098865729597
L_L4 1 8 10.608793045763nh
R_RL4 8 4 0.0101293401336
L_L5 2 9 27.826169813375nh
R_RL5 9 REF -0.567542317547
L_L6 2 10 11.370930187343nh
R_RL6 10 3 1.9563684014e-4
L_L7 2 11 10.694070465223nh
R_RL7 11 4 1.810257529e-4
L_L8 3 12 39.150410687812nh
R_RL8 12 REF -0.602910107035
L_L9 3 13 1.2925497775697nh
R_RL9 13 4 1.371824492e-5
L_L10 4 14 38.455839048326nh
R_RL10 14 REF -0.601847243964
Kn_K1 L_L1 L_L2 0.098138607026
Kn_K2 L_L1 L_L5 0.9977303527969
Kn_K3 L_L1 L_L8 0.8435334613303
Kn_K4 L_L1 L_L10 0.8509653385074
Kn_K5 L_L2 L_L3 0.0207822528253
Kn_K6 L_L2 L_L4 0.0181143397889
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.085135555766
Kn_K9 L_L2 L_L7 -0.091103150544
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9414453563981
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943848790019
Kn_K15 L_L3 L_L7 0.9354158913522
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.258745750506
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9363126122122
Kn_K21 L_L4 L_L7 0.9940277920448
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0820885948423
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8423528545122
Kn_K26 L_L5 L_L10 0.8496551821901
Kn_K27 L_L6 L_L7 0.941864065157
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.256852855106
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0828012673224
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1396698313672
Kn_K35 L_L8 L_L10 0.9833841581438
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_22 1 2 3 4 REF
C_C1 1 REF 0.0320055001216pf
C_C2 1 2 61.282633828745pf
C_C3 1 4 0.6938464930688pf
C_C4 2 REF 0.8301340749257pf
C_C5 2 3 0.2600920882269pf
C_C6 3 REF 0.3427900414064pf
C_C7 4 REF 0.3408906415344pf
R_R1 1 2 -257.1546834975
L_L1 1 5 0.6359401950813nh
R_RL1 5 2 -0.096369758728
L_L2 1 6 47.667210391798nh
R_RL2 6 3 0.0763629920734
L_L3 1 7 46.862517139052nh
R_RL3 7 4 0.0732963842393
L_L4 2 8 48.346546744831nh
R_RL4 8 3 0.1602347337443
L_L5 2 9 47.546088414266nh
R_RL5 9 4 0.1584773685354
L_L6 3 10 1.3146175914051nh
R_RL6 10 4 -2.713902586e-5
Kn_K1 L_L1 L_L4 -0.118603147205
Kn_K2 L_L1 L_L5 -0.11998242614
Kn_K3 L_L2 L_L3 0.9861288077333
Kn_K4 L_L2 L_L4 0.993401437961
Kn_K5 L_L2 L_L5 0.9794701236653
Kn_K6 L_L2 L_L6 -0.133861311799
Kn_K7 L_L3 L_L4 0.9796763950246
Kn_K8 L_L3 L_L5 0.9932899967673
Kn_K9 L_L3 L_L6 0.0324835301257
Kn_K10 L_L4 L_L5 0.9863250986072
Kn_K11 L_L4 L_L6 -0.132651912666
Kn_K12 L_L5 L_L6 0.0325170059415
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_23 1 2 3 4 REF
C_C1 1 REF 0.2820846821939pf
C_C2 1 2 23.816930452148pf
C_C3 1 4 0.2938259332277pf
C_C4 2 REF 0.5840707556923pf
C_C5 2 3 0.1266758355137pf
C_C6 3 REF 0.3430687200954pf
C_C7 4 REF 0.3375771399468pf
R_R1 1 2 -830.7150289078
L_L1 1 5 0.8700990343488nh
R_RL1 5 2 0.4911117792744
L_L2 3 6 1.3186140679133nh
R_RL2 6 4 7.0508707722e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_24 1 2 3 4 REF
C_C1 1 REF 0.3703512374612pf
C_C2 1 2 11.696712210715pf
C_C3 1 3 0.0468755033982pf
C_C4 1 4 0.1667095282245pf
C_C5 2 REF 0.519280235389pf
C_C6 2 3 0.0813157187089pf
C_C7 3 REF 0.3418289967853pf
C_C8 4 REF 0.3351460464965pf
L_L1 1 5 1.2393712497176nh
R_RL1 5 2 0.0715789685294
L_L2 3 6 1.316696335756nh
R_RL2 6 4 -1.031867146e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_25 1 2 3 4 REF
C_C1 1 REF 0.4102573119856pf
C_C2 1 2 7.1311623908148pf
C_C3 1 3 0.0693177930131pf
C_C4 1 4 0.1177668176813pf
C_C5 2 REF 0.5019774609693pf
C_C6 2 3 0.0625418330549pf
C_C7 2 4 0.0235890189909pf
C_C8 3 REF 0.3400525709613pf
C_C9 4 REF 0.3327324601336pf
L_L1 1 5 1.7440249954686nh
R_RL1 5 2 4.9617855292e-4
L_L2 3 6 1.3143629603337nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_26 1 2 3 4 REF
C_C1 1 REF 0.4254263637825pf
C_C2 1 2 5.7570482967808pf
C_C3 1 3 0.0791321786009pf
C_C4 1 4 0.1013673614825pf
C_C5 2 REF 0.4990962532193pf
C_C6 2 3 0.0553685920188pf
C_C7 2 4 0.042781352412pf
C_C8 3 REF 0.3388579166321pf
C_C9 4 REF 0.3312331911951pf
L_L1 1 5 1.8766417930738nh
R_RL1 5 2 9.8491636505e-5
L_L2 3 6 1.3133378567171nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param65_26

